US06489344B1
Synthesis of Ethyl 4-(4-cyanophenyl)-2-[(2-{[5-(morpholin-4-ylcarbonyl)(2-pyridyl)]amino}ethyl)amino]pyrimidine-5-carboxylate
The solution of ethyl 2-({2-[(5-(chlorocarbonyl)(2-pyridyl))amino]ethyl}amino)-4-(4-cyanophenyl)pyrimidine-5-carboxylate in dichloromethane prepared in Step 1 of Example 71 (1.0 ml) was treated at room temperature with a solution of morpholine (150 μL) in dichloromethane (1 ml). After 1 hour the solvent was removed in vacuo to give the title compound.

reactant | ethyl 2-({2-[(5-(chlorocarbonyl)(2-pyridyl))amino]ethyl}amino)-4-(4-cyanophenyl)pyrimidine-5-carboxylate | ClC(=O)C=1C=CC(=NC1)NCCNC1=NC=C(C(=N1)C1=CC=C(C=C1)C#N)C(=O)OCC | C22H19ClN6O3
reactant | morpholine | 150 μL | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | Ethyl 4-(4-cyanophenyl)-2-[(2-{[5-(morpholin-4-ylcarbonyl)(2-pyridyl)]amino}ethyl)amino]pyrimidine-5-carboxylate | C(#N)C1=CC=C(C=C1)C1=NC(=NC=C1C(=O)OCC)NCCNC1=NC=C(C=C1)C(=O)N1CCOCC1 | C26H27N7O4
